US06924374B2
1-(3-Chloro-5-trifluoromethyl-phenyl)-4-propyl-piperazine
A suspension of 1-(3-Chloro-5-trifluoromethyl-phenyl)-piperazine (100 mg) and ground K2CO3 (200 mg) was stirred in CH3CN (30 mL) at room temperature. A solution of 1-bromo-propyl (52 mg) in CH3CN (5 mL) was added dropwise. The mixture was stirred at 50° C. overnight. The reaction mixture was filtered and the volatiles were evaporated in vacuum. The oily residue was chromatographed on a silica column with MeOH: CH2Cl2 (1:9 (v/v)) as eluent. Collection of the fractions containing pure product and evaporation of the solvent afforded the title compound (85 mg). MS m/z (relative intensity, 70 eV) 306 (M+, 25), 277 (bp), 234 (23), 206 (23), 179 (23).

reactant | 1-(3-Chloro-5-trifluoromethyl-phenyl)-piperazine | 100 mg | ClC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12ClF3N2
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 30 mL | CC#N | C2H3N
reactant | CH3CN | 5 mL | CC#N | C2H3N
product | 1-(3-Chloro-5-trifluoromethyl-phenyl)-4-propyl-piperazine | 85 mg | ClC=1C=C(C=C(C1)C(F)(F)F)N1CCN(CC1)CCC | C14H18ClF3N2
